US07572795B2
3. 4-(bis(benzyloxy)phosphoryloxy)benzoic acid silver salt
4-(bis(benzyloxy)phosphoryloxy)benzoic acid (0.940 g, 2.36 mmol) was dissolved in THF (1.5 mL) and then diluted with water (50 mL). To the resulting suspension was added 1.000 N NaOH solution (2.30 mL, 2.30 mmol) at 0° C. The mixture was stirred at 0° C. for 30 min before a solution of silver nitrate (0.421 g, 2.48 mmol) in water (4 mL) was added over 5 min. Precipitate formed during the addition. The heterogeneous mixture was stirred at rt for 45 min before AcOEt (30 mL) was poured. The whole was stirred at rt for 10 min. The title compound (1.05 g, 88% yield) was collected as a white solid by suction filtration and dried over Drierite® under vacuum.

reactant | 4-(bis(benzyloxy)phosphoryloxy)benzoic acid | 2.36 mmol, 0.940 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C21H19O6P
reactant | NaOH | 2.30 mmol, 1.000 N, 2.30 mL | [OH-].[Na+]
reactant | silver nitrate | 2.48 mmol, 0.421 g | [N+](=O)([O-])[O-].[Ag+]
reactant | AcOEt | 30 mL | CCOC(=O)C | C4H8O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | water | 4 mL | O | H2O
product | 4-(bis(benzyloxy)phosphoryloxy)benzoic acid silver salt | 1.05 g, 88% yield | [Ag+].C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C21H19O6P.Ag/c22-21(23)19-11-13-20(14-12-19)27-28(24,25-15-17-7-3-1-4-8-17)26-16-18-9-5-2-6-10-18;/h1-14H,15-16H2,(H,22,23);/q;+1/p-1
